US04053431
A mixture of 0.835 g. of p-methoxycarbonyloxyaniline and 0.655 g. of p-cyanobenzaldehyde is gassed with argon in 50 ml. of benzene and heated under reflux for 1 hour (bath temperature 130°). The resulting water is separated with a water separator. During an additional hour, benzene condensed in the reflux condenser is now passed back into the reaction vessel through a layer of 20 g. of aluminum oxide (act. I). After cooling, the reaction mixture is freed from solvent in vacuum at 50° C. bath temperature, whereby there remain 1.395 g. of yellowish crystals which are recrystallized several times from isopropanol up to constant melting point and clearing point and up to the disappearance of sideproducts in the gas chromatogram. The pure, slightly yellowish p-[(-cyanobenzyliden)amino]phenyl methyl carbonate obtained has a melting point of 145.1°-146.2° and a clearing point of 163.4°. UV (EtOH): ε 270 = 20250, ε 324 = 10800 (shoulders at 243 l and 221 nm; minima at 312 and 233 nm).

reactant | p-methoxycarbonyloxyaniline | COC(=O)OC1=CC=C(N)C=C1 | C8H9NO3
reactant | p-cyanobenzaldehyde | C(#N)C1=CC=C(C=O)C=C1 | C8H5NO
reactant | aluminum oxide | [O-2].[Al+3].[O-2].[O-2].[Al+3]
reactant | benzene | C1=CC=CC=C1 | C6H6
product | p-[(-cyanobenzyliden)amino]phenyl methyl carbonate | C(OC1=CC=C(C=C1)N=C(C1=CC=CC=C1)C#N)(OC)=O | C16H12N2O3
